US07122543B2
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(3-methoxyphenyl)benzoate
To a solution of methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate (1.50 g, 2.9527 mmol) in toluene (40 ml) were added tetrakistriphenylphosphine palladium (205 mg, 0.1774 mmol), aqueous solution of sodium carbonate (2M aqueous solution, 4.58 ml), lithium chloride (300 mg, 7.0771 mmol) and ethanolic solution (7.2 ml) of 3-methoxybenzene boronic acid (1.34 g, 8.8186 mmol) and the mixture was heated with stirring at 95° C. for 16 hours. The reaction solution was diluted with ethyl acetate (100 ml), washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to give the title compound (1.23 g, 2.6394 mmol, 89%).

reactant | methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate | 2.9527 mmol, 1.50 g | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)OS(=O)(=O)C(F)(F)F)C(=C(C1OC)OC)OC)C | C21H23F3O9S
reactant | sodium carbonate | 2M, 4.58 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 7.0771 mmol, 300 mg | [Cl-].[Li+]
reactant | 3-methoxybenzene boronic acid | 8.8186 mmol, 7.2 ml, 1.34 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(3-methoxyphenyl)benzoate | 2.6394 mmol, 1.23 g, 89% | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)C2=CC(=CC=C2)OC)C(=C(C1OC)OC)OC)C | C27H30O7
